US09079919B2
(R)-5-(2′-Amino-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)nicotinonitrile
In a manner analogous to that described in Example 1, the cross-coupling reaction of (R)-7-bromo-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine (intermediate A6.1) with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile yielded the title compound (72% yield) as an off-white solid. MS (ISP): m/z=355.2 [M+H]+.

reactant | (R)-7-bromo-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazin]-2′-amine | BrC1=CC=C2CCC[C@@]3(N=C(OCC3(F)F)N)C2=C1 | C13H13BrF2N2O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile | CC1(OB(OC1(C)C)C=1C=NC=C(C#N)C1)C | C12H15BN2O2
product | (R)-5-(2′-Amino-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)nicotinonitrile | 72% yield | NC=1OCC([C@@]2(N1)CCCC1=CC=C(C=C12)C=1C=NC=C(C#N)C1)(F)F | C19H16F2N4O
